US07968585B2
2,6-dichloro-4-hydroxy-benzaldehyde
Dissolve tert-butyl-(3,5-dichloro-phenoxy)-dimethyl-silane (425 g, 1.5 mol) in 4 L dry tetrahydrofuran and cool to −68° C. Slowly add 1.1 equivalents of sec-butyl lithium (103.1 g, 1.61 mol) at −68° C. (˜1.75 hr). After addition is complete, stir the reaction at −70° C. for 30 min. Add dimethylformamide (168.5 g, 2.3 mol) and stir the reaction at −70° C. for 1 hr. Add 1 M hydrochloric acid in water (3.5 L) and allow the reaction to warm to room temperature. Pour the reaction mixture into ether (5 L), wash with water then brine. Dry over sodium sulfate and concentrate under vacuum to an orange solid. Triturate with cold dichloromethane and filter to recover 250 g (80%) pale yellow solid.

reactant | tert-butyl-(3,5-dichloro-phenoxy)-dimethyl-silane | 1.5 mol, 425 g | C(C)(C)(C)[Si](C)(C)OC1=CC(=CC(=C1)Cl)Cl | C12H18Cl2OSi
reactant | sec-butyl lithium | 1.61 mol, 103.1 g, 1.1 equivalents | C(C)(CC)[Li]
reactant | dimethylformamide | 2.3 mol, 168.5 g | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 4 L | O1CCCC1 | C4H8O
solvent | water | 3.5 L | O | H2O
solvent | ether | 5 L | CCOCC | C4H10O
product | 2,6-dichloro-4-hydroxy-benzaldehyde | ClC1=C(C=O)C(=CC(=C1)O)Cl | C7H4Cl2O2
